US08871753B2
Step B. 5-Bromo-2-methyl-4-morpholin-4-ylaniline
Iron powder (320 mg, 5.8 mmol) was stirred in ethanol (12 mL) with 1 N HCl solution (0.6 mL, 0.6 mmol) and heated at 60° C. for 2 hours. 5 N aqueous Ammonium chloride solution (1.0 mL, 5.0 mmol) and 4-(2-bromo-5-methyl-4-nitrophenyl)morpholine (350 mg, 1.2 mmol) were added and the mixture was heated at 60° C. for 30 minutes. The mixture was filtered through celite and the collected solids were washed with ethanol. The combined filtrates were evaporated to give the desired compound (0.24 g, 75%). LCMS for C11H16BrN2O (M+H)+: m/z=271.0.

reactant | HCl | 0.6 mmol, 1 N, 0.6 mL | Cl | ClH
reactant | Ammonium chloride | 5.0 mmol, 5 N, 1.0 mL | [Cl-].[NH4+]
reactant | 4-(2-bromo-5-methyl-4-nitrophenyl)morpholine | 1.2 mmol, 350 mg | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)N1CCOCC1 | C11H13BrN2O3
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | Iron | 5.8 mmol, 320 mg | [Fe] | Fe
product | 5-Bromo-2-methyl-4-morpholin-4-ylaniline | 0.24 g, 75% | BrC=1C(=CC(=C(N)C1)C)N1CCOCC1 | C11H15BrN2O
